US09216980B2
Step 2: 5-Hydroxy-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
9-Benzenesulfonyl-5-hydroxy-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (50 mg, 0.01 mmol) was dissolved in 0.15N potassium hydroxide solution in methanol (7 mL). The reaction mixture was stirred for 2.5 h then treated with a solution of monobasic potassium phosphate (136 mg, 1.0 mmol) in water (2 mL). The resultant mixture was concentrated in vacuo and the resultant residue was diluted with water (5 mL). The pH of the aqueous phase was adjusted to 7 by the addition of 1N hydrochloric acid. The aqueous phase was extracted with ethyl acetate, DCM and THF. The combined organic phase was concentrated in vacuo and the residue purified by flash chromatography (silica, 500 mg column, Si-SPE, 10-20% methanol in DCM) to afford the title compound as its hydrochloride salt (25 mg, 63%). 1H NMR (DMSO-D6, 400 MHz): 12.91 (s, 1H), 11.86 (br. s, 1H), 10.41 (s, 1H), 9.13 (d, J=2.2 Hz, 1H), 9.00 (d, J=2.2 Hz, 1H), 8.60 (s, 1H), 7.93 (d, J=8.1 Hz, 2H), 7.76 (d, J=8.1 Hz, 2H), 4.33 (d, J=5.2 Hz, 2H), 3.39-3.29 (m, 2H), 2.92-2.83 (m, 2H), 1.85-1.63 (m, 5H), 1.45-1.31 (m, 1H). LCMS (Method A): RT=5.32 min, M+H+=384.

reactant | 9-Benzenesulfonyl-5-hydroxy-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.01 mmol, 50 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=C(C=N2)C2=CC=C(C=C2)CN2CCCCC2 | C29H25N5O3S
reactant | potassium phosphate | 1.0 mmol, 136 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium hydroxide | 0.15N | [OH-].[K+]
solvent | methanol | 7 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 5-Hydroxy-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | OC1=C(N=CC2=C1C1=C(N2)N=CC(=C1)C1=CC=C(C=C1)CN1CCCCC1)C#N | C23H21N5O
